US03966945
To 20 ml. of dry 1,2-dichloroethane containing 2.0 g. of sodium chloride is added 3.32 g. of 2-methoxy-2-(2-pyridyl)-acetamide. After stirring at room temperature for 15 minutes, 1.7 ml. of phosphorus oxychloride is added. The solution is refluxed for 18 hours. The solution is then cooled and made basic with 10% aqueous sodium hydroxide solution. The aqueous phase is extracted three times with chloroform and the combined chloroform extracts are washed three times with water and once with brine and dried over magnesium sulfate. Filtration, removal of solvent and distillation in vacuo gives 2-methoxy-2-(2-pyridyl)acetonitrile, b.p. 72°-76°C./0.2 mm.

reactant | sodium chloride | [Cl-].[Na+]
reactant | 2-methoxy-2-(2-pyridyl)-acetamide | COC(C(=O)N)C1=NC=CC=C1 | C8H10N2O2
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydroxide | [OH-].[Na+]
solvent | 1,2-dichloroethane | 2.0 g | ClCCCl | C2H4Cl2
product | 2-methoxy-2-(2-pyridyl)acetonitrile | COC(C#N)C1=NC=CC=C1 | C8H8N2O
